US06432963B1
A 114 μl portion of methanesulfonyl chloride and 205 μl of triethylamine were added to a mixture of 382 mg of 2-(2-aminoethylamino)-4-(3-methylanilino)pyrimidine-5-carboxamide with 10 ml of ethyl acetate, followed by stirring at room temperature for 3.5 hours. The reaction mixture was washed with water and saturated brine, and then the organic layer was dried over anhydrous magnesium sulfate. This was concentrated under a reduced pressure and the resulting residue was recrystallized from a mixed solvent of methanol and ethyl acetate to obtain 210 mg of 2-{[2-(methanesulfonylamino)ethyl]amino}-4-(3-methylanilino)pyrimidine-5-carboxamide (colorless crystals).

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 205 μl | C(C)N(CC)CC | C6H15N
reactant | 2-(2-aminoethylamino)-4-(3-methylanilino)pyrimidine-5-carboxamide | 382 mg | NCCNC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C14H18N6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[2-(methanesulfonylamino)ethyl]amino}-4-(3-methylanilino)pyrimidine-5-carboxamide | 210 mg | CS(=O)(=O)NCCNC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C15H20N6O3S
